US04362736
1 g of N-cyano-5-(2-guanidinothiazol-4-yl)pentanoamidine was suspended in a mixture of 20 ml of methanol and 30 ml of chloroform. Hydrogen chloride gas was passed through the suspension for 1.5 hour at -5° to 5° C. and the reaction solution was concentrated under reduced pressure. The oily residue was recrystallized from a mixture of methanol and ether containing a small amount of water to provide 1.1 g of N-carbamoyl-5-(2-guanidinothiazol-4-yl)pentanoamidine dihydrochloride monohydrate having a melting point of 148°-150° C.

reactant | N-cyano-5-(2-guanidinothiazol-4-yl)pentanoamidine | 1 g | C(#N)NC(CCCCC=1N=C(SC1)NC(=N)N)=N | C10H15N7S
reactant | Hydrogen chloride | Cl | ClH
reactant | methanol | 20 ml | CO | CH4O
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
product | N-carbamoyl-5-(2-guanidinothiazol-4-yl)pentanoamidine dihydrochloride monohydrate | 1.1 g | O.Cl.Cl.C(N)(=O)NC(CCCCC=1N=C(SC1)NC(=N)N)=N | InChI=1S/C10H17N7OS.2ClH.H2O/c11-7(16-9(14)18)4-2-1-3-6-5-19-10(15-6)17-8(12)13;;;/h5H,1-4H2,(H4,11,14,16,18)(H4,12,13,15,17);2*1H;1H2
